US07816371B2
a. (R)-6-Chloro-2-(1-hydroxypropan-2-yl)-5-nitroisoquinolin-1(2H)-one
A microwave vial was charged with 6-chloro-5-nitro-1H-isochromen-1-one (80.0 mg, 0.000355 mol), (2R)-2-aminopropan-1-ol (29 mg, 0.00039 mol), triethylamine (0.15 mL, 0.0011 mol) and methanol (4 mL, 0.1 mol) and subjected to microwaves at 100° C. for 30 minutes. The reaction went to completion with 10% of cyclized product in addition to the required product. The solvent was removed and the residue purified by flash chromatography to obtain the product as a light yellow solid. MS m/z=283.2 (M+H). 1H NMR (400 MHz; DMSO-d6) δ 8.43 (d, J=8.86 Hz, 1H), 7.80 (d, J=8.86 Hz, 1H), 7.75 (d, J=7.98 Hz, 1H), 6.36 (d, J=7.09 Hz, 1H), 5.03-4.86 (m, 2H), 3.63-3.52 (m, 2H), 1.30 (d, J=7.0 Hz, 3H).

reactant | 6-chloro-5-nitro-1H-isochromen-1-one | 0.000355 mol, 80.0 mg | ClC=1C(=C2C=COC(C2=CC1)=O)[N+](=O)[O-] | C9H4ClNO4
reactant | (2R)-2-aminopropan-1-ol | 0.00039 mol, 29 mg | N[C@@H](CO)C | C3H9NO
reactant | triethylamine | 0.0011 mol, 0.15 mL | C(C)N(CC)CC | C6H15N
reactant | methanol | 0.1 mol, 4 mL | CO | CH4O
product | (R)-6-Chloro-2-(1-hydroxypropan-2-yl)-5-nitroisoquinolin-1(2H)-one | ClC=1C(=C2C=CN(C(C2=CC1)=O)[C@@H](CO)C)[N+](=O)[O-] | C12H11ClN2O4
